US07238716B2
2-[2-[4-[(5-Methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid (0.20 g) was added to a mixture of lithium hydroxide monohydrate (19 mg), methanol (5 mL) and tetrahydrofuran (5 mL) at room temperature, and the mixture was stirred for 30 min. The reaction mixture was concentrated, and the residue was crystallized from methanol and diethyl ether to give crystals (0.18 g, yield 90%) of lithium 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetate. Recrystallization from methanol-diethyl ether gave colorless prism crystals. melting point: 207-209° C.

reactant | 2-[2-[4-[(5-Methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 0.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O5
reactant | lithium hydroxide monohydrate | 19 mg | O.[OH-].[Li+]
reactant | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | lithium 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetate | 0.18 g, yield 90% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)[O-])C=C1.[Li+] | InChI=1S/C25H22N2O5.Li/c1-17-22(27-25(32-17)19-6-3-2-4-7-19)16-30-21-11-9-18(10-12-21)15-31-24-20(14-23(28)29)8-5-13-26-24;/h2-13H,14-16H2,1H3,(H,28,29);/q;+1/p-1
